US07517889B2
A mixture of 1-(3-bromo-phenyl)-cyclopentanecarboxylic acid ethyl ester [3.42 g, 11.51 mmol], lithium hydroxide (579 mg, 13.81 mmol), THF (13 mL), MeOH (13 mL) and water (13 mL) is vigorously stirred for 18 hours. The mixture is concentrated and the residue is diluted with water (50 mL). The aqueous mixture is acidified with concentrated HCl to pH 1 and extracted twice with EtOAc (50 mL). The organic extracts are combined and dried over magnesium sulfate, filtered and concentrated to afford 1-(3-bromo-phenyl)-cyclopentanecarboxylic acid [2.5 g, 80.6%] as a solid, which is used without further purification.

reactant | 1-(3-bromo-phenyl)-cyclopentanecarboxylic acid ethyl ester | 11.51 mmol, 3.42 g | C(C)OC(=O)C1(CCCC1)C1=CC(=CC=C1)Br | C14H17BrO2
reactant | lithium hydroxide | 13.81 mmol, 579 mg | [OH-].[Li+]
reactant | THF | 13 mL | C1CCOC1 | C4H8O
reactant | MeOH | 13 mL | CO | CH4O
solvent | water | 13 mL | O | H2O
product | 1-(3-bromo-phenyl)-cyclopentanecarboxylic acid | 2.5 g, 80.6% | BrC=1C=C(C=CC1)C1(CCCC1)C(=O)O | C12H13BrO2
